US06090836
2. 2-(3-chloro-4-(3-(3-ethyl-7-propyl-6-benz[4,5]isoxazole)oxy) propylthio) phenyl propionic acid methyl ester
A solution of 2-(3-chloro-4-dimethylcarbamoylthio)phenyl propionic acid methyl ester (0.106 g; 0.352 mmol) in dry methanol (1.42 mL) was treated with a solution of sodium methoxide in methanol (4.37 M; 0.113 mL; 0.493 mmol). The solution was refluxed for 4 hours and then cooled to room temperature. 3-ethyl-6-(3-bromopropyl)oxy-7-propyl-benz[4,5]isox-azole (0.096 grams; 0.293 mmol) was added and the reaction stirred for 1 hour. The reaction mixture was partitioned between isopropyl acetate and pH 4.0 buffer. The organic layer was dried over magnesium sulfate, filtered and evaporated. Silica gel chromatography afforded the title compound.

reactant | sodium methoxide | C[O-].[Na+]
reactant | 3-ethyl-6-(3-bromopropyl)oxy-7-propyl-benz[4,5]isox-azole | 0.293 mmol, 0.096 grams | C(C)C1=NOC2=C1C=CC(=C2CCC)OCCCBr | C15H20BrNO2
reactant | methanol | 1.42 mL | CO | CH4O
reactant | methanol | 0.493 mmol, 4.37 M, 0.113 mL | CO | CH4O
product | phenyl propionic acid methyl ester | COC(C(C)C1=CC=CC=C1)=O | C10H12O2
